US04455422
2.0 Grams of 6-(1-oxo-4-chlorobutyl)-3,4-dihydrocarbostyril was mixed with 100 ml of methanol, and the mixture was stirred at a room temperature. Then 1.0 g of sodium borohydride was added to the mixture gradually. After the reaction mixture was stirred at a room temperature for 2 hours, methanol was removed by distillation under a reduced pressure. The residue was extracted with chloroform and the chloroform layer was washed with water, and dried. Chloroform was removed by distillation under a reduced pressure, then the residue thus obtained was recrystallized from ethanol-water to obtain 1.2 g of 6-(1-hydroxy-4-chlorobutyl)-3,4-dihydrocarbostyril in colorless needle-like crystals. Melting point: 120°-121° C.

reactant | 6-(1-oxo-4-chlorobutyl)-3,4-dihydrocarbostyril | O=C(CCCCl)C=1C=C2CCC(NC2=CC1)=O | C13H14ClNO2
reactant | sodium borohydride | 1.0 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 6-(1-hydroxy-4-chlorobutyl)-3,4-dihydrocarbostyril | 1.2 g | OC(CCCCl)C=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
